US04882330
N-[4-(4-Chloro-2-hydroxybutoxy)phenyl]acetamide
To a solution of 500 g (3.5 mole) of 1,4-dichloro-2-butanol was added, dropwise, 500 ml (6.25 mole) of a 50% sodium hydroxide solution. The mixture was stirred for 16 hr and then 500 ml of water was added, dropwise, with the temperature maintained below 35° C. The mixture was extracted with 500 ml of isopropyl ether, dried over sodium sulfate and concentrated to give an oil which was purified by distillation. To 14.3 g (0.1 mole) of the purified epoxide was added a solution of 15.1 g (0.1 mole) of 4-acetamidophenol in 150 ml of 2-propanol and 4 g of (0.1 mole) of sodium hydroxide in 10.0 ml of water. The mixture was stirred for 15 hr and then poured into 400 ml of water at 0° C. The crude, collected solid was washed with water and allowed to air dry. The solid was suspended in 350 ml of acetone, collected by filtration, and washed with additional portions of acetone. The filtrate was concentrated under reduced pressure to give 13.8 g (53% yield) of solid. A portion of this solid was recrystallized from tetrahydrofuran to give cream-colored solid, m.p. 124°-127° C.

reactant | 1,4-dichloro-2-butanol | 3.5 mole, 500 g | ClCC(CCCl)O | C4H8Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-acetamidophenol | 0.1 mole, 15.1 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
solvent | water | 10.0 ml | O | H2O
solvent | water | 400 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | N-[4-(4-Chloro-2-hydroxybutoxy)phenyl]acetamide | 13.8 g, 53% yield | ClCCC(COC1=CC=C(C=C1)NC(C)=O)O | C12H16ClNO3
